US06680282B2
100 Milligrams of 4-hydroxy-2,3-dimethyl-6-n-pentyl-quinoline (Compound No. 97) was stirred in 2 ml of acetic anhydride at 120° C. for 4 hours. After the solvent was evaporated, 20 ml of ethyl acetate was added and the reaction mixture was washed with an aqueous saturated sodium hydrogencarbonate solution and a saturated brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the resultant crude product was purified by column chromatography on silica gel (WAKOGEL® C-100) eluting with n-hexane/ethyl acetate (5:1) to obtain 87.4 mg of 4-acetoxy-2,3-dimethyl-6-n-pentyl-quinoline (yield 74%). Its NMR spectral data are shown in the following Table 2.

reactant | 4-hydroxy-2,3-dimethyl-6-n-pentyl-quinoline | OC1=C(C(=NC2=CC=C(C=C12)CCCCC)C)C | C16H21NO
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-acetoxy-2,3-dimethyl-6-n-pentyl-quinoline | 87.4 mg, yield 74% | C(C)(=O)OC1=C(C(=NC2=CC=C(C=C12)CCCCC)C)C | C18H23NO2
